US05885986
A yellow suspension of 7.91 g (0.0248 mol) of (S)-8-chloro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-thiocarboxamide in 160 ml of dioxan was treated with 3.46 g (0.0273 mol) of 1,3-dichloro-2-propanone. The suspension was boiled at reflux for 24 hrs. The suspension obtained was cooled and filtered. The solution was completely freed from the solvents. The crude product was chromatographed over silica gel with cyclohexane/ethyl acetate 1:2 as the eluent and recrystallized from hot acetonitrile. There was obtained 0.85 g (8.7%) of (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one as white crystals; m.p. 221-223 and [α]D20 =-163.0° (MeOH, c=1%).

reactant | (S)-8-chloro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-thiocarboxamide | 0.0248 mol, 7.91 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=S)CC1)=O | C14H11ClN4OS
reactant | 1,3-dichloro-2-propanone | 0.0273 mol, 3.46 g | ClCC(CCl)=O | C3H4Cl2O
solvent | dioxan | 160 ml | O1CCOCC1 | C4H8O2
product | (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.85 g, 8.7% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3SC=C(N3)CCl)CC1)=O | C17H12Cl2N4OS
